US08633173B2
195 e) To a suspension of 2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-ol (0.20 g, 1.3 mmol) and cesium carbonate (0.47 g, 1.4 mmol) in dry acetone (5 mL, 70 mmol) was added N-(2-bromomethyl-phenyl)-N-methyl-methanesulfonamide (0.40 g, 1.4 mmol). The mixture was stirred for 2 hours at room temperature then heated at 40° C. for 18 hours. The mixture was cooled to room temperature and the volatiles were evaporated. The residue was triturated with water (30 mL). The water was decanted and the waxy solid was dissolved in dichloromethane (30 mL) and washed with water. The organic layer was dried over magnesium sulfate, filtered and evaporated. The recovered material was purified via chromatography (silica gel column 40 g and 0%→10% methanol:dichloromethane). N-[2-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-phenyl]-N-methyl-methanesulfonamide was isolated as an orange viscous oil (0.129 g, 28%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.96 (d, J=6.7 Hz, 1H), 7.73-7.68 (m, 1H), 7.40-7.28 (m, 3H), 6.88 (d, J=7.8 Hz, 1H), 6.71 (t, J=7.1 Hz, 1H), 5.48 (br s, 2H), 4.44 (s, 2H), 3.31 (s, 3H), 2.99 (s, 3H).

reactant | 2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-ol | 1.3 mmol, 0.20 g | NC1=NN2C(C(=CC=C2)O)=N1 | C6H6N4O
reactant | cesium carbonate | 1.4 mmol, 0.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetone | 70 mmol, 5 mL | CC(=O)C | C3H6O
reactant | N-(2-bromomethyl-phenyl)-N-methyl-methanesulfonamide | 1.4 mmol, 0.40 g | BrCC1=C(C=CC=C1)N(S(=O)(=O)C)C | C9H12BrNO2S
product | N-[2-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-phenyl]-N-methyl-methanesulfonamide | NC1=NN2C(C(=CC=C2)OCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H17N5O3S
